US07579362B2
Step 75.1: Preparation of 2-fluoro-4-methylbenzene boronic acid
To a mixture of toluene (160 ml) and THF (40 ml) are added triisopropyl borate (13.56 ml, 58.42 mmole) and 3-fluoro-4-bromotoluene (10.0 g, 48.69 mmole). The mixture is cooled down to −40° C. and n-Butylithium (2.5M in hexane) (23.4 ml, 58.42 mmole) is added slowly over 1 h and the mixture is stirred for an additional hour while the temperature is held at −40° C. The acetone/dry ice bath is removed and the reaction mixture is allowed to warm to −20° C. before a 2.5M HCl solution (20 ml) is added. When the mixture reached rt, the aqueous layer is extracted with EtOAc (3×50 ml), organic extracts are combined, dried over MgSO4 (anhydrous) and evaporated under reduced pressure to give a yellow solid, which is recrystalilsed from acetonitrile, affording the title product.

reactant | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
reactant | THF | 40 ml | C1CCOC1 | C4H8O
reactant | triisopropyl borate | 58.42 mmole, 13.56 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | 3-fluoro-4-bromotoluene | 48.69 mmole, 10.0 g | FC=1C=C(C=CC1Br)C | C7H6BrF
solvent | hexane | CCCCCC | C6H14
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-fluoro-4-methylbenzene boronic acid | FC1=C(C=CC(=C1)C)B(O)O | C7H8BFO2
